US08486941B2
A round bottomed flask was charged with 4-methanesulfonylaminophenylboronic acid (4.30 g, 20 mmol) and 2,4-dichloropyrimidine (5.97 g, 40 mmol, 2 eq.), toluene (75 mL), n-propanol (25 mL) and aqueous sodium carbonate solution (2M, 18 mL, 1.8 eq.). The reaction mixture was evacuated and backfilled with nitrogen three times before adding tetrakis(triphenylphosphine) palladium (0) catalyst (1.02 g, 4.4 mol %). The reaction mixture was again evacuated and backfilled with nitrogen three times before being heated at 100° C. under a nitrogen atmosphere for 66 hours. The reaction mixture was cooled and stirred at room temperature for several hours during which time the product precipitated from the reaction mixture. The fine yellow solid (3.45 g, 61% yield) was collected by vacuum filtration, washed with methanol and dried under high vacuum. 1H NMR and LC MS data confirmed this to be the desired N-(4-(2-chloropyrimidin-4-yl)phenyl)methanesulfonamide. 1H NMR (300 MHz, d6-DMSO) δ 10.26 (1H, brs); 8.75 (1H, d, J=5.5 Hz); 8.17 (2H, d, J=9.1 Hz); 8.05 (1H, d, J=5.5 Hz); 7.35 (2H, d, J=8.7 Hz); 3.10 (3H, s). LC-ESI-MS (method B): rt 5.5 min.; m/z 284.2/286.1 [M+H]+. N-(4-(2-chloropyrimidin-4-yl)phenyl)methanesulfonamide (750 mg 2.64 mmol) and potassium carbonate (730 mg, 2 eq.) were placed in a round bottomed flask and suspended in acetone (50 mL). The mixture was stirred for several minutes before adding bromoacetonitrile (368 μL, 2 eq.). The reaction mixture was stirred at room temperature for 48 h. The crude reaction mixture was concentrated in vacuo and the residue taken up in ethyl acetate (200 mL) and washed with water (2×100 mL), brine (100 mL) and then dried (sodium sulfate). The organic phase was concentrated in vacuo to give N-(4-(2-chloropyrimidin-4-yl)phenyl)-N-(cyanomethyl)methanesulfonamide (762 mg, 89% yield) as a fawn solid. 1H NMR (300 MHz, d6-DMSO) δ 8.86 (1H, d, J=5.0 Hz); 8.28 (2H, d, J=8.7 Hz); 8.18 (1H, d, J=5.5 Hz); 7.66 (2H, d, J=8.7 Hz); 4.97 (2H, s); 3.22 (3H, s). LC-ESI-MS (method B): rt 5.9 min.; m/z 323.2/325.2 [M+H]+. N-(4-(2-chloropyrimidin-4-yl)phenyl)-N-(cyanomethyl)methanesulfonamide (171 mg, 0.53 mmol), 5-amino-2-morpholinobenzoic acid (142 mg, 1.2 eq.) and p-toluene sulfonic acid monohydrate (98 mg, 0.98 eq.) were suspended in 1,4-dioxane (8 mL) and heated at 100° C. overnight. The reaction mixture was cooled to room temperature, concentrated in vacuo. The residue was taken up in ethyl acetate (80 mL) and washed with water (20 mL) and brine (20 mL). The organic phase was then dried and concentrated in vacuo. The residue was repeatedly triturated with methanol (5 mL then 3 mL) to afford, as a cream solid, 5-(4-(4-(N-(cyanomethyl)methylsulfonamido)phenyl)pyrimidin-2-ylamino)-2-morpholinobenzoic acid (101 mg, 37%). 1H NMR (300 MHz, d6-DMSO) δ 17.23 (1H, s) CO2H, 9.99 (1H, s); 8.74 (1H, d, J=2.7 Hz); 8.62 (1H, d, J=5.0 Hz); 8.33 (2H, d, J=8.7 Hz); 8.01 (1H, dd, J=2.8, J=8.7 Hz); 7.69 (1H, d, J=9.1 Hz); 7.63 (2H, d, J=8.7 Hz); 7.52 (1H, d, J=9.1 Hz); 4.97 (2H, s); 3.81 (4H, m); 3.21 (3H, s); 3.06 (4H, m). LC-ESI-MS (method C): rt 5.4 min.; m/z 509.3 [M+H]+. 5-(4-(4-(N-(Cyanomethyl)methylsulfonamido)phenyl)pyrimidin-2-ylamino)-2-morpholinobenzoic acid (50 mg, 0.098 mmol) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (41 mg, 1.1 eq.) were dissolved in anhydrous N,N-dimethylformamide (4 mL) and sonicated for 5 minutes. Triethylamine (41 mL, 3 eq.) and N,N-dimethylethylenediamine (21 mL, 2 eq.) were added and the mixture stirred overnight at room temperature. The reaction mixture was then diluted with ethyl acetate (50 mL) and washed with bicarbonate solution (20 mL), water (20 mL) and brine (20 mL). The organic phase was dried (sodium sulfate) and concentrated in vacuo to afford, as a yellow solid, Compound 73 (48 mg, 86% yield).

reactant | N-(4-(2-chloropyrimidin-4-yl)phenyl)methanesulfonamide | 2.64 mmol, 750 mg | ClC1=NC=CC(=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H10ClN3O2S
reactant | potassium carbonate | 730 mg, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 368 μL, 2 eq. | BrCC#N | C2H2BrN
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | N-(4-(2-chloropyrimidin-4-yl)phenyl)-N-(cyanomethyl)methanesulfonamide | 762 mg, 89% yield | ClC1=NC=CC(=N1)C1=CC=C(C=C1)N(S(=O)(=O)C)CC#N | C13H11ClN4O2S
